US04518597
6-(4-Chloro-butoxy)-4H-3,1-benzoxazin-2-one
Sixty grams (0.253 mol) of 6-(4-hydroxy-butoxy)-4H-3,1-benzoxazin-2-one and 5 ml of pyridine are added to 300 ml of thionyl chloride, under stirring, at ambient temperature. After refluxing for two hours, the excess thionyl chloride is distilled off in a rotary evaporator, and the residue is taken up in chloroform and is stirred with the same volume of ice water for 30 minutes. Then, the chloroform phase is removed, washed twice with water, and dried with sodium sulfate, and the chloroform is distilled off. The residue is recrystallized from toluene/diisopropylether (3:1).

reactant | 6-(4-hydroxy-butoxy)-4H-3,1-benzoxazin-2-one | 0.253 mol, Sixty grams | OCCCCOC=1C=CC2=C(COC(N2)=O)C1 | C12H15NO4
reactant | thionyl chloride | 300 ml | S(=O)(Cl)Cl | Cl2OS
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 6-(4-Chloro-butoxy)-4H-3,1-benzoxazin-2-one | ClCCCCOC=1C=CC2=C(COC(N2)=O)C1 | C12H14ClNO3
